US08119676B2
[6-Chloro-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydro-benzimidazol-1-yl]acetic acid (XIIIg)
1.10 g (2.43 mmol) of tert-butyl [6-chloro-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydrobenzimidazol-1-yl]acetate (XIIg) were dissolved in dichloromethane (40 ml) and, while stirring at room temperature, trifluoroacetic acid (20 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 0.82 g (95%) of white solid

reactant | tert-butyl [6-chloro-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydrobenzimidazol-1-yl]acetate | 2.43 mmol, 1.10 g | ClC=1C=CC2=C(N(C(N2S(=O)(=O)C2=CC=C(C=C2)OC)=O)CC(=O)OC(C)(C)C)C1 | C20H21ClN2O6S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | [6-Chloro-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydro-benzimidazol-1-yl]acetic acid | ClC=1C=CC2=C(N(C(N2S(=O)(=O)C2=CC=C(C=C2)OC)=O)CC(=O)O)C1 | C16H13ClN2O6S
